US07507740B2
(i) Production of 5-(3-{[tert-butyl(dimethyl)silyl]oxy}propyl)-4-chloro-5H-pyrrolo[3,2-d]pyrimidine
To a suspension of 4-chloro-5H-pyrrolo[3,2-d]pyrimidine (400 mg) in N,N-dimethylformamide (2.6 mL) was added cesium carbonate (957 mg) under ice-cooling, and the mixture was stirred while warming to room temperature for 15 min. To the reaction mixture was added (3-bromopropoxy)(tert-butyl)dimethylsilane (979 mg), and the mixture was stirred at room temperature for 16 hrs. The reaction mixture was diluted with water (20 mL) and extracted with ethyl acetate (30 mL×3). The organic layer washed with saturated brine (30 mL×3) and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the obtained residue was subjected to silica gel column chromatography (silica gel, eluent:hexane/ethyl acetate=85/15→10/90). The object fraction was concentrated under reduced pressure and dried to give the title compound (630 mg) as a white solid.

reactant | 4-chloro-5H-pyrrolo[3,2-d]pyrimidine | 400 mg | ClC=1C2=C(N=CN1)C=CN2 | C6H4ClN3
reactant | cesium carbonate | 957 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | (3-bromopropoxy)(tert-butyl)dimethylsilane | 979 mg | BrCCCO[Si](C)(C)C(C)(C)C | C9H21BrOSi
solvent | N,N-dimethylformamide | 2.6 mL | CN(C=O)C | C3H7NO
solvent | water | 20 mL | O | H2O
product | 5-(3-{[tert-butyl(dimethyl)silyl]oxy}propyl)-4-chloro-5H-pyrrolo[3,2-d]pyrimidine | 630 mg | [Si](C)(C)(C(C)(C)C)OCCCN1C=CC=2N=CN=C(C21)Cl | C15H24ClN3OSi
